US06677345B1
2,5,6-Triamino-4-Benzyloxypyrimidine (NU6040)
To a suspension of 2,6-diamino-4-benzyloxy-5-nitrosopyrimidine (0.3 g, 1.28 mmol) in water (10 ml) at 50° C. was added sodium dithionite (0.48 g, 2.76 mmol) in portions over 5 h. The reaction mixture was stirred at room temperature overnight, heated again to 50° C. and a further quantity of sodium dithionite (0.4 g) was added. After stirring for a further 12 h, the reaction mixture was cooled to room temperature, and the solution was adjusted to pH 7 with aqueous ammonia solution (0.2 ml). The resultant fine yellow solid which deposited was collected, washed with water and recrystallised from hot water (0.11 g, 35%), m.p. 130-135° C.; νmax/cm−1 3394 (NH2), 3033 (C6H5); δH (200 MHz, d6-DMSO) 5.36 (2H, s, OCH2), 5.40 (2H, s, NH2), 5.81 (2H, s, NH2), 7.39-7.56 (5H, m, C6H5).

reactant | 2,6-diamino-4-benzyloxy-5-nitrosopyrimidine | 1.28 mmol, 0.3 g | NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)N=O)N | C11H11N5O2
reactant | sodium dithionite | 2.76 mmol, 0.48 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 0.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ammonia | 0.2 ml | N | H3N
solvent | water | 10 ml | O | H2O
product | 2,5,6-Triamino-4-Benzyloxypyrimidine | NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)N)N | C11H13N5O
